US07368572B2
To a solution of N-Boc propargylamine (2.07 g, 13.4 mmol), methyl 4-iodobenzoate (3.50 g, 13.4 mmol) and PdCl2(PPh3)2 (0.938 g, 1.34 mmol) in DMF (20 ml) was added triethylamine (9.31 ml, 126 mmol). The reaction mixture was stirred for 30 min at room temperature. Cu(I)I (0.508 g, 2.67 mmol) was added and stirring was continued for additional 16 h. The reaction mixture was diluted with ethyl acetate (250 ml), washed with 0.5M aqueous HCl (200 ml), and finally with brine (200 ml). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by flash chromatography over silica gel with ethyl acetate/hexane (1/4) provided methyl 4-(N-Boc-3-aminoprop-1-ynyl)benzoate (3.44 g) as highly viscous oil.

reactant | N-Boc propargylamine | 13.4 mmol, 2.07 g | C(=O)(OC(C)(C)C)NCC#C | C8H13NO2
reactant | methyl 4-iodobenzoate | 13.4 mmol, 3.50 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | triethylamine | 126 mmol, 9.31 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(PPh3)2 | 1.34 mmol, 0.938 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-(N-Boc-3-aminoprop-1-ynyl)benzoate | 3.44 g | C(=O)(OC(C)(C)C)NCC#CC1=CC=C(C(=O)OC)C=C1 | C16H19NO4
